US07678929B2
5.5. Preparation of 6,7-difluoro-5-(2-methoxyethoxymethoxy)-2-methylbenzofuran-4-carbaldehyde
27.2 g (77.5 mmol) of 4-bromo-6,7-difluoro-5-(2-methoxyethoxymethoxy)-2-methylbenzofuran are initially introduced at −75° C. in 500 ml of THF, and 52.0 ml (85.2 mmol) of n-BuLi (15% soln. in hexane) are added. After 2 h at this temperature, 15.5 ml (155 mmol) of N-formylmorpholine are metered in, and the batch is stirred at this temperature for 2 h. The reaction soln. is slowly warmed to −10° C. and hydrolysed using dil. HCl. The batch is extracted with MTBE, and the combined organic phases are washed with sat. sodium chloride soln. The solution is dried using sodium sulfate and concentrated to dryness. The residue is purified by column chromatography (SiO2, n-heptane:MTBE=2:1→n-heptane:MTBE=1:1).

reactant | 4-bromo-6,7-difluoro-5-(2-methoxyethoxymethoxy)-2-methylbenzofuran | 77.5 mmol, 27.2 g | BrC1=C(C(=C(C2=C1C=C(O2)C)F)F)OCOCCOC | C13H13BrF2O4
reactant | n-BuLi | 85.2 mmol, 52.0 ml | [Li]CCCC
reactant | N-formylmorpholine | 155 mmol, 15.5 ml | C(=O)N1CCOCC1 | C5H9NO2
reactant | HCl | Cl | ClH
solvent | THF | 500 ml | C1CCOC1 | C4H8O
product | 6,7-difluoro-5-(2-methoxyethoxymethoxy)-2-methylbenzofuran-4-carbaldehyde | FC=1C(=C2C(C=C(O2)C)=C(C1OCOCCOC)C=O)F | C14H14F2O5
